US08426448B2
Dissolve (±)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-1-(4-difluoromethoxy-phenyl)-5-(2-fluoro-phenyl)-1,5-dihydro-pyrrol-2-one (2.06 g; 3.95 mmol) in HOAc (20 mL) and add sodium cyanoborohydride (0.50 g, 7.90 mmol). Stir for 2 hours at ambient temperature. Concentrate under reduced pressure and dissolve the residue in EtOAc. Wash the organic phase with 1N NaOH, water, saturated sodium chloride solution, dry over sodium sulfate, filter and concentrate under reduced pressure. Purify by silica gel chromatography (5-25% EtOAc-hexane) to yield (±)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-5-(2-fluoro-phenyl)-1-(4-difluoromethoxy-phenyl)-pyrrolidin-2-one (1.5 g, 73%), a racemic mixture, as a clear colorless oil. LC-MS ESI m/z: 524 (M+H)+, Tr=3.18 min., method 1.

reactant | (±)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-1-(4-difluoromethoxy-phenyl)-5-(2-fluoro-phenyl)-1,5-dihydro-pyrrol-2-one | 3.95 mmol, 2.06 g | CC(C)(C1=NC(=CC=C1)C(F)(F)F)NC=1C(N(C(C1)C1=C(C=CC=C1)F)C1=CC=C(C=C1)OC(F)F)=O | C26H21F6N3O2
reactant | sodium cyanoborohydride | 7.90 mmol, 0.50 g | C(#N)[BH3-].[Na+]
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
product | (±)-3-[1-methyl-1-(6-trifluoromethyl-pyridin-2-yl)-ethylamino]-5-(2-fluoro-phenyl)-1-(4-difluoromethoxy-phenyl)-pyrrolidin-2-one | 1.5 g, 73% | CC(C)(C1=NC(=CC=C1)C(F)(F)F)NC1C(N(C(C1)C1=C(C=CC=C1)F)C1=CC=C(C=C1)OC(F)F)=O | C26H23F6N3O2
